US08252820B2
B. 2,2-Dimethyl-hept-6-enoic acid
To a solution of 2,2-dimethyl-hept-6-enoic acid ethyl ester (600 mg, 3.3 mmol) in MeOH (10 mL) is added 6N NaOH (5 mL) and the suspension is stirred at RT for 18 h. The solution is acidified with 1N HCl and extracted with EtOAc. The organic layer is dried, filtered and the solvent is removed under reduced pressure to afford the product which is used directly in the next step.

reactant | 2,2-dimethyl-hept-6-enoic acid ethyl ester | 3.3 mmol, 600 mg | C(C)OC(C(CCCC=C)(C)C)=O | C11H20O2
reactant | NaOH | 6N, 5 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
product | 2,2-Dimethyl-hept-6-enoic acid | CC(C(=O)O)(CCCC=C)C | C9H16O2
